US07589214B2
tert-Butyl 3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxylate
To tert-Butyl 3-oxo-3-(4-phenoxyphenyl)propanoate (559 mg, 1.80 mmol) in tetrahydrofuran, was added Bredereck's reagent (1.18 mL, 5.70 mmol). The reaction mixture was stirred for 6 hours under nitrogen at reflux. The reaction mixture was concentrated in vacuo and taken up in EtOH (5 mL). Hydrazine monohydrate (79 μL, 1.63 mmol) was added and the reaction mixture was heated at reflux for 16 hours. The crude mixture was concentrated in vacuo, taken up in EtOAc, washed with water, a saturated aqueous solution of NaHCO3 and brine. The organic phase was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (eluting with 40% EtOAc in petroleum ether) to afford the title compound (264 mg, 48% yield). MS (ES+) m/e=337. 1H NMR (CDCl3) δH 1.52 (9H, s), 7.04 (2H, d), 7.06 (2H, d), 7.16 (1H, t), 7.38 (2H, t), 7.66 (2H, d), 7.95 (1H, s), 10.90 (1H, br s).

reactant | tert-Butyl 3-oxo-3-(4-phenoxyphenyl)propanoate | 1.80 mmol, 559 mg | O=C(CC(=O)OC(C)(C)C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C19H20O4
reactant | Bredereck's reagent | 5.70 mmol, 1.18 mL | CC(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | Hydrazine monohydrate | 1.63 mmol, 79 μL | O.NN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-Butyl 3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxylate | 264 mg, 48% yield | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NNC=C1C(=O)OC(C)(C)C | C20H20N2O3
